US09388142B2
A suspension of 2-amino-5-fluorobenzamide (135 mg, 0.88 mmol), 1-(4-[1,3]dioxolan-2-yl-phenyl)-cyclopentanol (206 mg, 0.88 mmol) and sodium disulfite (170 mg, 0.89 mmol) in N,N-dimethylacetamide (2 ml) is heated to 150° C. and stirred at this temperature for 3 hours. The reaction mixture is allowed to reach room temperature and poured into ice water. The resulting precipitate is collected by filtration and washed with water. It is chromatographed on a silica gel column with methanol/dichloromethane as eluent to afford 6-fluoro-2-[4-(1-hydroxy-cyclopentyl)-phenyl]-3H-quinazolin-4-one as white solid; HPLC/MS 1.80 min (A), [M+H] 325;

reactant | 2-amino-5-fluorobenzamide | 0.88 mmol, 135 mg | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
reactant | 1-(4-[1,3]dioxolan-2-yl-phenyl)-cyclopentanol | 0.88 mmol, 206 mg | O1C(OCC1)C1=CC=C(C=C1)C1(CCCC1)O | C14H18O3
reactant | sodium disulfite | 0.89 mmol, 170 mg | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | 6-fluoro-2-[4-(1-hydroxy-cyclopentyl)-phenyl]-3H-quinazolin-4-one | FC=1C=C2C(NC(=NC2=CC1)C1=CC=C(C=C1)C1(CCCC1)O)=O | C19H17FN2O2
